Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Back pain, nose bleed and pancytopenia
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy by interventional radiology (___)

 
History of Present Illness:
A ___ year old female with a history of transformed follicular 
lymphoma s/p multiple past regimens as noted below, and 
ultimately an autoSCT with BEAM conditioning in ___.  She 
has comorbid CVID and receives IVIG monthly.  Her
post transplant course was complicated by ___ pneumonitis.  She 
underwent a total right knee replacement on ___.  Her 
postoperative course was complicated by foot drop likely due to 
irritation of her peroneal nerve from the CPM machine as well as 
a cellulitis of the right leg following her surgery which was 
treated with a course of Keflex.  This is the same leg as her 
previous DVT and her circulation is poor.  She has had ongoing 
issues with sciatica with hip and left lower back pain, and has 
had steroid injections.

At the end of ___ of ___, Ms. ___ noted 
increasing swelling of her right leg with shortness of breath.  
She had been on Xarelto for prior DVT and has an IVC filter in 
place.  Her dose of Xarelto had been decreased to 10 mg daily 
given her age and chronic history of DVT; she also had a lower 
platelet count for a period of time.  She was seen and admitted 
at ___ with ultrasound showing DVT of the right leg 
once again.  Chest CT with no PE or other adenopathy.  Abdomen 
and Pelvic CT without adenopathy or concern for lymphoma 
recurrence.  Xarelto was increased back to 20 mg daily. 

INTERVAL HISTORY:  Over the past 1 - 2 months, Ms. ___ was 
noted for a drop in her white count with neutropenia as well as 
a drop in her platelet count.  This had been noticed in the past 
with the plan to repeat a bone marrow biopsy but her counts 
returned to baseline so bone marrow biopsy was deferred.  She 
was also noted for a nonhealing wound on her left leg after hit 
on the shin several weeks ago.  She was treated with a course of 
Keflex with still poor healing.  Given 2 doses of Neupogen to 
support counts.  She was seen by the wound care clinic at ___ 
___ yesterday and the area was debrided and dressing 
applied.

At her visit today, Ms. ___ is noted for further drop in 
blood counts(platelet count is low but more her baseline).  She 
reports not feeling well towards the middle of last week and on 
___ morning, she developed increasing left lower back pain, 
radiating to the buttock area.  She feels this is related to her 
sciatica but is different pain pattern; no radiating pain down 
the leg as she usually has.  Pain increases with changing 
positions and with initial ambulation.  She walks with a cane.  
In addition, she developed increasing nasal congestion on 
___ night which seemed to come on suddenly.  No fevers, 
chills, night sweats, sore throat.  When blowing her nose, she 
noted increased blood with clots although no frank epistaxis.  

Because of the more acute drop in counts, Ms. ___ is being 
admitted for further evaluation for possible bleed given on 
anticoagulation vs evolving MDS-->Leukemia.  

 
Past Medical History:
Oncologic history: In brief, history of follicular lymphoma 
stage IIIA s/p CHOP x 6 cycles in ___ followed by CVP and 
rituximab in ___ for residual disease. ___: RICE 
chemotherapy x 3 cycles. ___ autoBMT (BEAM). ___ XRT to 
local disease. She has a hx of hypogammaglobulinemia.

Other PMH:
obesity
Acute DVT in the right popliteal/femoral veins + superficial 
thrombosis
--Transformed DLBCL with history of follicular lymphoma as noted 
above
--CLL, noted on BM biopsy on ___.
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
--Hypogammaglobulinemia, receives IVIG PRN
--R leg DVT.  IVC filter in place, on rivaroxaban
--BCNU pneumonitis, on prednisone
--Mild GERD
--OA / LBP
--Small Intestinal Bacterial Overgrowth
--Trochanteric Bursitis
--s/p Excisional Bx L Cervical Lymph Node
--s/p L total knee replacement ___, walks with cane
--s/p I&D Labial Abscess
--s/p Excision Cyst R ___ Digit of Hand
 
Social History:
___
Family History:
brother- lymphoma

 
Physical ___:
ADMISSION PHYSICAL:
===================
VITALS - 17:27 ___ 98.9 PO ___ 18 97 RA 
General: pleasant, no distress, sitting at edge of bed 
HEENT: anicteric sclerae, clear oropharynx without lesions 
Neck: no adenopathy 
CV: RRR, normal S1, S2, no murmurs or rubs 
Lungs: clear bilaterally, good air movement 
Abdomen: well-healed surgical incisions, active BS, soft, no
rebound or guarding, no organomegaly 
Ext: Bilateral ___ swelling, R > L. L shin wound is wrapped and
c/d/I. 2+ radial and DP pulses, 3+ pitting edema bilaterally 
Neuro: CNs ___ intact, noted dysmetria of R eye and sluggish
pupil, strength and sensation grossly intact, ambulates with 
cane
  
DISCHARGE PHYSICAL:
===================
VS: TC 98.8 PO 130/80 93 18 98%RA 
Weight: 258.7 lbs (___) -> 254.4 lbs (___) 
General: pleasant, sitting in chair with tiara on, no distress 
HEENT: anicteric sclerae, clear oropharynx without lesions 
Neck: no adenopathy 
CV: RRR, normal S1, S2, no murmurs or rubs 
Lungs: CTAB, no wheezes, rales or rhonchi 
Abdomen: Active BS, soft, no rebound or guarding, no
organomegaly 
Back: No tenderness over spinous processes or L iliac crest 
Ext: Bilateral ___ swelling, R > L. R leg with TEDS stocking on.
L shin wound is stable. 2+ radial and DP pulses 
Neuro: CNs ___ intact, noted dysmetria of R eye and sluggish
pupil, strength and sensation grossly intact, ambulates with 
cane
Skin: Erythematous venous stasis changes in bilateral lower
extremities from mid-tibia to medial malleolus 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:45AM BLOOD WBC-2.3* RBC-2.46* Hgb-8.0* Hct-24.4* 
MCV-99* MCH-32.5* MCHC-32.8 RDW-21.4* RDWSD-76.8* Plt Ct-93*
___ 10:45AM BLOOD Neuts-29* Bands-0 ___ Monos-26* 
Eos-0 Baso-0 ___ Metas-2* Myelos-0 Blasts-1* NRBC-4* 
AbsNeut-0.67* AbsLymp-0.97* AbsMono-0.60 AbsEos-0.00* 
AbsBaso-0.00*
___ 10:45AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-OCCASIONAL 
Tear Dr-1+
___ 10:45AM BLOOD ___ PTT-39.0* ___
___ 10:45AM BLOOD Ret Aut-1.2 Abs Ret-0.03
___ 10:45AM BLOOD UreaN-15 Creat-0.9 Na-139 K-4.1 Cl-102 
HCO3-26 AnGap-15
___ 10:45AM BLOOD ALT-12 AST-16 LD(LDH)-232 AlkPhos-96 
TotBili-0.3
___ 10:45AM BLOOD Albumin-3.5 Calcium-8.1* Mg-2.2 Iron-49
___ 10:45AM BLOOD ___ Folate->20 Hapto-254* 
Ferritn-389*
___ 10:45AM BLOOD TSH-1.9
___ 10:45AM BLOOD IgG-728
 
OTHER PERTINENT LABS:
=====================
___ 12:32PM URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-<1
___ 12:32PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 12:32PM URINE Color-Straw Appear-Clear Sp ___
 
MICROBIOLOGY:
=============
___ 12:32 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 11:30PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 10:00AM OTHER BODY FLUID STANDARD LEUKEMIA/LYMPHOMA 
PANEL (24 MARKERS)-TEST      
___ 10:00AM BONE MARROW IPT-DONE
___ 10:00AM BONE MARROW CEBPA MUTATION ANALYSIS-PND
___ 10:00AM BONE MARROW RAPID HEME PANEL-PND
 
IMAGING:
========
___ 3:___BD & PELVIS W/O CONTRAST
IMPRESSION:
1. No evidence of retroperitoneal hematoma or lymphadenopathy.
2. Stable 3.2 cm right adnexal cyst.  Continued attention is 
advised on futurefollow up.
3. Severe degenerative changes of lumbar spine are similar to 
before.

___ 3:___HEST W/O CONTRAST
IMPRESSION: 
No evidence of acute intrathoracic abnormality.
No evidence of intrathoracic lymphoma.
Dilated main pulmonary artery, concerning for pulmonary 
hypertension, unchanged since ___.

___ 3:38 ___
CT HEAD W/O CONTRAST
IMPRESSION: 
1. Of note, significant streak artifact from the right 
supraclinoid vascular embolization coil limits evaluation of 
adjacent structures.  Given these limitations, there is no 
evidence of acute major territorial infarction, hemorrhage, or 
fracture.
2. Paranasal sinus disease, as described above.

___ 3:28 ___
CT SINUS/MANDIBLE/MAXILLOFACIA
IMPRESSION: 
Mild mucosal thickening in both maxillary sinuses and ethmoid 
air cells, similar to recent CT head.  No evidence of bony 
erosion.
 
PATHOLOGY: RESULT PENDING AT DISCHARGE
==========

DISCHARGE LABS:
===============
___ 12:00AM BLOOD WBC-2.5* RBC-2.29* Hgb-7.2* Hct-22.7* 
MCV-99* MCH-31.4 MCHC-31.7* RDW-20.6* RDWSD-75.0* Plt Ct-85*
___ 12:00AM BLOOD Neuts-11* Bands-0 Lymphs-55* Monos-26* 
Eos-0 Baso-0 ___ Metas-1* Myelos-4* Promyel-2* Blasts-1* 
NRBC-6* AbsNeut-0.28* AbsLymp-1.38 AbsMono-0.65 AbsEos-0.00* 
AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-1+ Polychr-NORMAL Ovalocy-1+ 
Schisto-OCCASIONAL Tear Dr-OCCASIONAL
___ 12:00AM BLOOD Plt Smr-LOW Plt Ct-85*
___ 12:00AM BLOOD Glucose-110* UreaN-18 Creat-0.8 Na-142 
K-3.6 Cl-101 HCO3-23 AnGap-22*
___ 12:00AM BLOOD ALT-9 AST-11 LD(LDH)-238 AlkPhos-89 
TotBili-0.2
___ 12:00AM BLOOD Albumin-3.4* Calcium-8.1* Phos-3.5 Mg-2.2
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with history of transformed 
DLBCL s/p a curative attempt with an autoSCT with BEAM 
conditioning in ___ ___s IFRT with course complicated 
by BCNU pneumonitis as well as persistent norovirus p/w acute 
LBP, epistaxis, pancytopenia, concerning for RP bleed and 
disease progression.  

ACUTE ISSUES:
=============
#Pancytopenia/Lymphoma disease status: Pancytopenic on 
admission. Counts remained stable while in house. BM Bx 
performed under fluoroscopy on ___ showed was concerning for 
MDS, final results are pending at discharge. Treatment plan 
developed with Dr. ___ likely involve administration 
of dacogen but this will be further delineated outpatient. 
Hemoglobin 7.1 on admission and patient received 1U prbcs prior 
to discharge.  

#Infection/URI: Presented w/ congestion and recent blood nasal 
exudates. On ___, was febrile. Respiratory viral, Blood, and 
Urine cx were obtained; CXR and CT sinus were evaluated. Vanc 
and cefepime were started. No infectious pathogen was identified 
and the patient had no further fevers. On ___, vancomycin was 
discontinued. On ___, cefepime was discontinued. She received 
symptomatic treatment with nasal saline and oxymetazoline. She 
was discharged with levaquin 500mg q24hrs (to complete a 7D 
course on ___ 

#LLE Wound: Wearing Unna boot on presentation which had been 
placed 5d PTA. Seen by wound c/s service. Daily dressing changes 
while in house. Lesion stable. Rash of chronic venous stasis, 
stable. Discharged with instructions to follow-up for usual care 
at ___.

#Anti-coagulation/DVT: Concern for RP Bleed on admission, ruled 
out by CT. Rivaroxaban held and patient treated with enoxaparin. 
The dose was held or modified at different times because of 
planned procedures. The patient did not have any acute bleeding 
events apart from bloody nasal exudate with nose blowing. On 
discharge, patient was restarted on home dose of Rivaroxaban 
(20mg PO daily). Platelets 85K at discharge 

#Back Pain: Improved with rest and oxycodone while patient was 
in hospital. Otherwise, continued gabapentin 900mg TID at 
discharge. No acute pain episodes prior to leaving.

CHRONIC ISSUES:
===============
#Pulm HTN
#History of BCNU pneumonitis- Followed by Dr. ___. No active 
symptoms. PRN inhalers ordered

#H/o Migraine: R-sided pain, usually early morning onset, 
associated with photophobia. Typically reaches peak intensity 
after 4 hours and resolves with one or two episodes of vomiting. 
Would take indomethacin at home for this, but it is not 
appropriate given thrombocytopenia. No acute episodes prior to 
discharge, continue to monitor closely outpatient 

#hyperthesia of R V1/V2- chronic, occurred after coiling 
procedure for cerebral aneurysm, cont gabapentin  

#GERD- PPI  

#Depression- venlafaxine 

DISPO: patient discharged on ___. RTC on ___ on ___ with 
Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 900 mg PO TID 
2. Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze  
3. Rivaroxaban 20 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Omeprazole 20 mg PO DAILY 
7. Potassium Chloride 10 mEq PO BID 
8. Venlafaxine 25 mg PO BID 
9. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
10. Cyanocobalamin 1000 mcg PO QHS 
11. FoLIC Acid 3.2 mg PO DAILY 
12. Ascorbic Acid ___ mg PO BID 
13. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q24H Duration: 6 Days 
Take daily from ___ to ___.  Potassium Chloride 10 mEq PO DAILY  
3.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H  
4.  albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing  
5.  Ascorbic Acid ___ mg PO BID  
6.  Cyanocobalamin 1000 mcg PO QHS  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
8.  FoLIC Acid 3.2 mg PO DAILY  
9.  Furosemide 20 mg PO DAILY  
10.  Gabapentin 900 mg PO TID  
11.  Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze   
12.  Omeprazole 20 mg PO DAILY  
13.  Rivaroxaban 20 mg PO DAILY  
14.  Venlafaxine 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
==================
Myelodisplastic Syndrome
Diffuse large B cell lymphoma
Febrile neutropenia
Rhinosinusitis

Secondary Diagnoses:
====================
History of deep venous thromboembolism (DVT) on anticoagulation
Common variable immunodeficiency (CVID)
Migraine
Chronic non-healing wound

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ came to ___ because ___ had 
back pain and low blood counts.

What was done for me in the hospital?
- CT scans of your torso and sinuses looking for bleeding and 
infection. Neither infection nor bleeding was found.
- Bone marrow biopsy to assess cancer disease status was 
concerning for Myelodisplastic syndrome
- Antibiotics for a fever.
- Supportive care for your congestion.

What should I do now that I am leaving the hospital?
- Attend your scheduled follow-up appointments, listed below.
- Take your medications as prescribed.
- Return the to hospital if ___ have any concerning symptoms 
(some key symptoms are listed below).

It was a pleasure participating in your care. Wishing ___ all 
the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___